US07214674B2
5-Bromo-2-methoxy-3-nitrobenzyl Alcohol (D4)
Sodium borohydride (4 g) was added in portions to a stirring solution of crude 5-bromo-2-methoxy-3-nitrobenzaldehyde (20.5 g) in methanol (350 mL) and tetrahydrofuran (150 mL) at 0° C. After 1 h, the methanol was removed in vacuo. The residue was treated with cold water (150 mL) and extracted with diethyl ether (2×150 mL). The combined organic layer was evaporated in vacuo to give a crude oil. Silica gel chromatography eluting with ethyl acetate in petroleum ether (10–40%) gave the title compound (17 g) as a solid.

reactant | Sodium borohydride | 4 g | [BH4-].[Na+]
reactant | 5-bromo-2-methoxy-3-nitrobenzaldehyde | 20.5 g | BrC=1C=C(C(=C(C=O)C1)OC)[N+](=O)[O-] | C8H6BrNO4
solvent | methanol | 350 mL | CO | CH4O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | 5-Bromo-2-methoxy-3-nitrobenzyl Alcohol | 17 g | BrC=1C=C(C(=C(CO)C1)OC)[N+](=O)[O-] | C8H8BrNO4
